US04112098
C. Preparation of 6-chloro-3-diazooxindole
33.8 g of 6-chloroisatin-3-p-toluenesulfonylhydrazone is suspended in a mixture of 970 ml of 0.2 N sodium hydroxide solution and 1.5 liters of dichloromethane. The suspension is heated at 41° for 3 hours with vigorous stirring under nitrogen, cooled to room temperature, filtered and recrystallized from methanol. Yield 13 g (68%), m.p. 197°-199° (d).

reactant | 6-chloroisatin-3-p-toluenesulfonylhydrazone | 33.8 g | C1(=CC=C(C=C1)S(=O)(=O)NN=C1C(NC2=CC(=CC=C12)Cl)=O)C | C15H12ClN3O3S
solvent | sodium hydroxide | 0.2 N, 970 ml | [OH-].[Na+]
solvent | dichloromethane | 1.5 liters | ClCCl | CH2Cl2
product | 6-chloro-3-diazooxindole | ClC1=CC=C2C(C(NC2=C1)=O)=[N+]=[N-] | C8H4ClN3O
